US05210092
to a solution of 1-(4-hydroxymethylphenyl)-5-methylpyrrole-2-carbonitrile (890 mg) in dichloromethane (9 ml) was added triethylamine (794 μl) and methanesulfonyl chloride (343 μl) at 0° C. under nitrogen atmosphere. The mixture was stirred at 0° C. for an hour and then dichloromethane was added therein. The mixture was stirred and washed with water twice and brine, dried over magnesium sulfates and concentrated in vacuo to give 1-(4-methanesulfonyloxymethylphenyl)-5-methylpyrrole-2-carbonitrile (1.19 g).

reactant | 1-(4-hydroxymethylphenyl)-5-methylpyrrole-2-carbonitrile | 890 mg | OCC1=CC=C(C=C1)N1C(=CC=C1C)C#N | C13H12N2O
reactant | triethylamine | 794 μl | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 343 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 9 ml | ClCCl | CH2Cl2
product | 1-(4-methanesulfonyloxymethylphenyl)-5-methylpyrrole-2-carbonitrile | 1.19 g | CS(=O)(=O)OCC1=CC=C(C=C1)N1C(=CC=C1C)C#N | C14H14N2O3S
